US09238631B2
c) (2S)-2-amino-5-(4-hydroxybenzyl)hexanedioic acid
(2S)-2-tert.-Butoxycarbonylamino-5-(4-hydroxy-benzyl)-hexanedioic acid di-tert.-butyl ester (159 mg, 332 μmol) was solved in formic acid (20 ml) and the solution was stirred at 63° C. for one hour. The solvent was removed under reduced pressure and the residue was taken up in methanol and concentrated and dried in vacuo. The product was taken up in water and lyophilized to yield 78 mg (79%) of the title compound (contains 0.4 eq formic acid and traces of methanol).

reactant | (2S)-2-tert.-Butoxycarbonylamino-5-(4-hydroxy-benzyl)-hexanedioic acid di-tert.-butyl ester | 332 μmol, 159 mg | C(C)(C)(C)OC([C@H](CCC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C26H41NO7
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | (2S)-2-amino-5-(4-hydroxybenzyl)hexanedioic acid | 78 mg, 0.4 eq, 79% | N[C@H](C(=O)O)CCC(C(=O)O)CC1=CC=C(C=C1)O | C13H17NO5
